US09403807B2
Step K: methyl 2-(4-chlorophenyl)-2-(6-fluoro-4-(methylsulfonamido)-1H-indol-1-yl)butanoate
Methanesulfonyl chloride (0.23 g, 2 mmol) was added to a stirred solution of methyl 2-(4-amino-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate (0.6 g, 1.7 mmol) and 4-methylmorpholine (0.25 g, 2.5 mmol) in DCM (8 mL) at 0° C. After 30 min, an additional portion of methanesulfonyl chloride (0.1 g, 1 mmol) was added. After 1 h, the reaction mixture was partitioned between DCM and saturated aqueous ammonium chloride. The layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography (PE: EA=2:1) to afford the title compound. LC/MS m/z=439.1 [M+H]+.

reactant | Methanesulfonyl chloride | 2 mmol, 0.23 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 2-(4-amino-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | 1.7 mmol, 0.6 g | NC1=C2C=CN(C2=CC(=C1)F)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C19H18ClFN2O2
reactant | 4-methylmorpholine | 2.5 mmol, 0.25 g | CN1CCOCC1 | C5H11NO
reactant | methanesulfonyl chloride | 1 mmol, 0.1 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(4-chlorophenyl)-2-(6-fluoro-4-(methylsulfonamido)-1H-indol-1-yl)butanoate | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=C(C=C12)F)NS(=O)(=O)C | C20H20ClFN2O4S
